US07601722B2
1-(4-fluoro-2-methylphenyl)-1,3-dihydro-2,1,3-benzothiadiazole 2,2-dioxide (prepared analogously as described in general procedure I, 0.35 g, 1.3 mmol) was treated with triphenylphosphine (0.46 g, 1.5 mmol), 2-bromoethanol (0.21 g, 1.4 mmol) and diisopropylazodicarboxylate (0.35 g, 1.7 mmol) to provide 0.32 g of 1-(2-bromoethyl)-3-(4-fluoro-2-methylphenyl)-1,3-dihydro-2,1,3-benzothiadiazole 2,2-dioxide. HRMS: calculated for C15H14BrFN2O2S, 383.99434; found (EI, M+), 383.9958

reactant | 1-(4-fluoro-2-methylphenyl)-1,3-dihydro-2,1,3-benzothiadiazole 2,2-dioxide | FC1=CC(=C(C=C1)N1S(NC2=C1C=CC=C2)(=O)=O)C | C13H11FN2O2S
reactant | triphenylphosphine | 1.5 mmol, 0.46 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-bromoethanol | 1.4 mmol, 0.21 g | BrCCO | C2H5BrO
reactant | diisopropylazodicarboxylate | 1.7 mmol, 0.35 g | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
product | 1-(2-bromoethyl)-3-(4-fluoro-2-methylphenyl)-1,3-dihydro-2,1,3-benzothiadiazole 2,2-dioxide | 0.32 g | BrCCN1S(N(C2=C1C=CC=C2)C2=C(C=C(C=C2)F)C)(=O)=O | C15H14BrFN2O2S
